US07342115B2
Step 2. Synthesis of 4-[6-(2,6-diethyl-phenyl)-3-(2,2-dimethyl-morpholin-4-ylmethyl)-2-methyl-pyridin-4-yloxy]-2-hydroxy-benzamide
A mixture of 4-[4-chloro-6-(2,6-diethyl-phenyl)-2-methyl-pyridin-3-ylmethyl]-2,2-dimethyl-morpholine (30 mg, 0.08 mmol), 2,4-dihydroxy-benzamide (24 mg, 0.16 mmol), copper powder (10 mg) and K2CO3 (22 mg, 0.16 mmol) in 1-methyl-2-pyrrolidinone (1 mL) is heated at 150° C. overnight. After cooling, EtOAc (10 mL) and water (10 mL) are added to the mixture. The organic layer is separated, washed with brine (3×), dried (Na2SO4) and concentrated. The crude is purified by PTLC (1:1 Hexane/EtOAc) to give to give the title compound. 1H NMR (CDCl3) 12.41 (s, 1H), 7.35 (d, 2H), 7.23 (m, 1H), 7.10 (m, 2H), 6.63 (s, 1H), 6.51 (m, 2H), 5.85 (br, 2H), 3.72 (m, 2H), 3.56 (s, 2H), 2.74 (s, 3H), 2.41-2.30 (m, 6H), 1.20 (s, 6H), 1.76 (m, 2H), 1.01 (t, 6H).

reactant | 4-[4-chloro-6-(2,6-diethyl-phenyl)-2-methyl-pyridin-3-ylmethyl]-2,2-dimethyl-morpholine | 0.08 mmol, 30 mg | ClC1=C(C(=NC(=C1)C1=C(C=CC=C1CC)CC)C)CN1CC(OCC1)(C)C | C23H31ClN2O
reactant | 2,4-dihydroxy-benzamide | 0.16 mmol, 24 mg | OC1=C(C(=O)N)C=CC(=C1)O | C7H7NO3
reactant | K2CO3 | 0.16 mmol, 22 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | 1-methyl-2-pyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
catalyst | copper | 10 mg | [Cu] | Cu
solvent | water | 10 mL | O | H2O
product | 4-[6-(2,6-diethyl-phenyl)-3-(2,2-dimethyl-morpholin-4-ylmethyl)-2-methyl-pyridin-4-yloxy]-2-hydroxy-benzamide | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C(=N1)C)CN1CC(OCC1)(C)C)OC1=CC(=C(C(=O)N)C=C1)O | C30H37N3O4
